US08912330B2
6-(1-methyl-1H-indol-5-yl)-1-phenoxy-1H-pyrrolo[3,2-b]pyridine:
6-bromo-1-phenoxy-1H-pyrrolo[3,2-b]pyridine (56 mg, 0.205 mmol, 1.0 eq), Pd(PPh3)4 (13 mg), 2.0 M K2CO3 (1.0 ml), DMF (1.2 ml), and (1-methyl-1H-indol-5-yl)boronic acid (1.5 eq, 0.315 mmol) were refluxed under N2 overnight. The crude products were purified with preparation HPLC to give the product in 50%.

reactant | 6-bromo-1-phenoxy-1H-pyrrolo[3,2-b]pyridine | 0.205 mmol, 56 mg, 1.0 eq | BrC=1C=C2C(=NC1)C=CN2OC2=CC=CC=C2 | C13H9BrN2O
reactant | K2CO3 | 2.0 M, 1.0 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | (1-methyl-1H-indol-5-yl)boronic acid | 0.315 mmol, 1.5 eq | CN1C=CC2=CC(=CC=C12)B(O)O | C9H10BNO2
catalyst | Pd(PPh3)4 | 13 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 1.2 ml | CN(C)C=O | C3H7NO
product | 6-(1-methyl-1H-indol-5-yl)-1-phenoxy-1H-pyrrolo[3,2-b]pyridine | CN1C=CC2=CC(=CC=C12)C=1C=C2C(=NC1)C=CN2OC2=CC=CC=C2 | C22H17N3O
